US05047411
A mixture of 3-methyl-2-[2-(4-acetamido-3-nitrophenyl)ethyl]pyridine (12.0 g) in ethanol (100 ml) and 17% hydrochloric acid (100 ml) was heated at 80° to 85° C. for 6 hours. The reaction mixture was evaporated in vacuo and the residue was dissolved in water. The resultant solution was adjusted to pH 8.0 with aqueous 20% potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was recrystallized from a mixture of ethyl acetate and diethyl ether to give 3-methyl-2-[2-(4-amino-3-nitrophenyl)ethyl]pyridine (9.3 g).

reactant | 3-methyl-2-[2-(4-acetamido-3-nitrophenyl)ethyl]pyridine | 12.0 g | CC=1C(=NC=CC1)CCC1=CC(=C(C=C1)NC(C)=O)[N+](=O)[O-] | C16H17N3O3
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 100 ml | Cl | ClH
product | 3-methyl-2-[2-(4-amino-3-nitrophenyl)ethyl]pyridine | 9.3 g | CC=1C(=NC=CC1)CCC1=CC(=C(C=C1)N)[N+](=O)[O-] | C14H15N3O2
